US04766131
A solution of 3,4-dihydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride (58.4 g, 0.24 m) in 1 liter of methanol and 5% Pd/C (5 g) were combined under nitrogen in a pressure bottle and the mixture hydrogenated at 40 psi and ambient temperature on a Parr apparatus for 18 hr. The catalyst was removed by filtration and the solvent evaporated. The residue was dissolved in H2O (1 liter), basified to pH 11 with 50% NaOH and extracted with CHCl3 (3×300 ml). The extracts were dried over MgSO4 and evaporated to dryness (aspirator, then high vacuum) to give 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline, 35.2 g (70% yield).

reactant | 3,4-dihydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride | 58.4 g | Cl.COC=1C=C2CCN=C(C2=CC1OC)C
solvent | methanol | 1 liter | CO | CH4O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 70% yield | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
